US08633312B2
2-(2,4-Difluorophenylamino)-8-methoxy-10,11-dihydrodibenzo[a,d]cyclo-hepten-5-one (12a)
In accordance with general method O, 0.52 g (1.9 mmol) of 2-chloro-8-methoxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one, 0.30 g (2.3 mmol) of 2,4-difluoroaniline, 0.04 g of Pd(OAc)2, 0.16 g of phosphine ligand and 0.86 g (8.9 mmol) of Na—O-tert-butylate are reacted in 10 ml of toluene and 2 ml of tert-BuOH. Purification is carried out by column chromatography (flash; SiO2; hexane 90%/ethyl acetate 10%). Yield: 66%; m.p.: 157° C.

reactant | 2-chloro-8-methoxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | 1.9 mmol, 0.52 g | ClC1=CC2=C(C(C3=C(CC2)C=C(C=C3)OC)=O)C=C1 | C16H13ClO2
reactant | 2,4-difluoroaniline | 2.3 mmol, 0.30 g | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | phosphine | 0.16 g | P | H3P
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | tert-BuOH | 2 ml | C(C)(C)(C)O | C4H10O
catalyst | Pd(OAc)2 | 0.04 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-(2,4-Difluorophenylamino)-8-methoxy-10,11-dihydrodibenzo[a,d]cyclo-hepten-5-one | Yield: 66% | FC1=C(C=CC(=C1)F)NC1=CC2=C(C(C3=C(CC2)C=C(C=C3)OC)=O)C=C1 | C22H17F2NO2
